US04265923
A solution of 500 grams of alpha-n-butyl-4,6-dimethyl-3-cyclohexane methanol, 600 grams of sulfuric acid, 1400 grams of water and 500 grams of isopropyl alcohol is heated at reflux for 14 hours. The reaction mass is cooled, diluted with 1500 ml of H2O and 200 ml of toluene. The aqueous layer is discarded and the organic layer is washed twice with water, neutralizing with aqueous sodium hydroxide on the second wash. Distillation through a 1.5"×12" Goodloe column affords 351 grams of 3-n-butyl-1,5-dimethyl-2-oxabicyclo[2.2.2]octane (b.p. 90° C., 3 mm Hg pressure).

reactant | alpha-n-butyl-4,6-dimethyl-3-cyclohexane methanol | 500 grams | C(CCC)C(O)C1CCC(CC1C)C | C13H26O
reactant | sulfuric acid | 600 grams | S(O)(O)(=O)=O | H2O4S
reactant | isopropyl alcohol | 500 grams | C(C)(C)O | C3H8O
solvent | H2O | 1500 ml | O | H2O
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 1400 grams | O | H2O
product | 3-n-butyl-1,5-dimethyl-2-oxabicyclo[2.2.2]octane | 351 grams | C(CCC)C1OC2(CC(C1CC2)C)C | C13H24O
